US05183825
1-Bromo-2-methyl naphthalene (25 g), N-bromosuccinimide (24.2 g), carbon tetrachloride (250 mL) and a catalytic amount of azo(bis)isobutylnitrile were refluxed 40 hours under a nitrogen atmosphere. The reaction was cooled to room temperature and volatile materials were removed in vacuo on a rotary evaporator. the residue was treated with hot hexane (steam bath, about 2×250 mL). The hexane solution was decanted and cooled in ice. The product was collected on a Buchner funnel and air dried to give 14.5 g of 1-bromo-2-bromomethylnaphthalene as white crystals.

reactant | 1-Bromo-2-methyl naphthalene | 25 g | BrC1=C(C=CC2=CC=CC=C12)C | C11H9Br
reactant | N-bromosuccinimide | 24.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 250 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-2-bromomethylnaphthalene | 14.5 g | BrC1=C(C=CC2=CC=CC=C12)CBr | C11H8Br2
